US07696200B2
A solution of 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo-[1,4]oxazine-6-carboxylic acid (4-bromo-3-cyano-phenyl)-amide (109 mg, 0.194 mmol), triethylamine (49 mg, 0.48 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane complex (20 mg, 25 μmol) in ethyl acetate (1.5 mL) and 1-propanol (1.5 mL) was heated at 110° C. under a carbon monoxide atmosphere for 16 h, then volatile material was removed by distillation. Chromatography of the residue (SiO2; heptane-ethyl acetate gradient, then dichloromethane/methanol 9:1) followed by trituration in dichloromethane produced 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-cyano-benzoic acid propyl ester (46 mg, 42%). White solid, MS (ISP)=568.2 (M−H)−.

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo-[1,4]oxazine-6-carboxylic acid (4-bromo-3-cyano-phenyl)-amide | 0.194 mmol, 109 mg | BrC1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)C#N | C23H17BrClN3O5S
reactant | triethylamine | 0.48 mmol, 49 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | 1-propanol | 1.5 mL | C(CC)O | C3H8O
product | 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-2-cyano-benzoic acid propyl ester | 46 mg, 42% | C(CC)OC(C1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)C#N)=O | C27H24ClN3O7S
